US06812229B1
40.4 g of methyl 4-chloro-3-methylbenzoate, 39 g of N-bromosuccinimide and 1 g of azobisisobutyronitrile were added to 300 ml of carbon tetrachloride, followed by reflux under heating for 4 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, insoluble matters were collected by filtration and the filtrate was concentrated. The obtained crude crystals were washed with hexane to obtain 34.3 g of methyl 3-bromomethyl-4-chlorobenzoate as white crystals.

reactant | methyl 4-chloro-3-methylbenzoate | 40.4 g | ClC1=C(C=C(C(=O)OC)C=C1)C | C9H9ClO2
reactant | N-bromosuccinimide | 39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | azobisisobutyronitrile | 1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 3-bromomethyl-4-chlorobenzoate | 34.3 g | BrCC=1C=C(C(=O)OC)C=CC1Cl | C9H8BrClO2
